US07402684B2
5-{4-[4-((S)-1-Pyrrolidin-2-ylmethoxy)-phenoxy]-phenyl}-oxazole:
To a solution of 5-(4-bromophenyl)-1,3-oxazole (224 mg, 1.0 mmol) in dioxane (2 mL) was added (S)-2-(4-Hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (440 mg, 1.5 mmol) in dioxane (2 mL) and cesium carbonate (651 mg, 2.0 mmol). The vessel was purged with nitrogen for 15 min before N,N-dimethylglycine hydrochloride (12.5 mg, 0.09 mmol) in dioxane (1 mL) and Cu(I) iodide (6 mg, 0.03 mmol) were added. The resulted mixture was stirred it 85° C. for 16 h. It was then diluted with EtOAc and water, organic layer was separated, washed with water, brine, dried over anhydrous MgSO4 and concentrated in vacuo to dark brownish oil. The crude mixture was purified by silica gel flash chromatography (10% EtOAc/Hexane) before treating it with 4M HCl in dioxane (5 mL) at rt for 1 h. Solvent was removed in residue was triturated with ether and dried under vacuum to give the product, as white solid (336 mg, 90%): MS; m/z 337.4 M+H), 1H NMR (400 MHz, DMSO-d6); δ 1.71-2.15 (m, 4H), 3.18-3.25 (m, 2H), 3.88-3.91 (m, 1H), 4.12-4.17 (m, 1H), 4.23-4.27 (m, 1H), 7.00-7.10 (m, 6H), 7.59 (s, 1H), 7.71 (dd, 2H, J1=6.8 Hz, J2=2.4 Hz, 8.41 (s, 1H), 9.04 (br, 1H), 9.6 (br, 1H); HPLC (UV); 99%

reactant | 5-(4-bromophenyl)-1,3-oxazole | 1.0 mmol, 224 mg | BrC1=CC=C(C=C1)C1=CN=CO1 | C9H6BrNO
reactant | (S)-2-(4-Hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.5 mmol, 440 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | cesium carbonate | 2.0 mmol, 651 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine hydrochloride | 0.09 mmol, 12.5 mg | Cl.CN(CC(=O)O)C
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-{4-[4-((S)-1-Pyrrolidin-2-ylmethoxy)-phenoxy]-phenyl}-oxazole | N1[C@@H](CCC1)COC1=CC=C(OC2=CC=C(C=C2)C2=CN=CO2)C=C1 | C20H20N2O3
